US07989644B2
11b) 2-Bromo-8-iododibenzofuran
2-Bromodibenzofuran (2.5 g, 10.1 mmol), orthoperiodic acid (0.49 g, 2.15 mmol), iodine (1.02 g, 4.02 mmol), sulfuric acid, H2O (2 ml) and acetic acid (10 ml) are put into a reaction vessel and the mixture is stirred at 70° C. for 3 hours. After cooling to room temperature the reaction mixture is poured into water and filtered. The white solid is washed by methanol and the desired product is obtained (1.92 g, 51%).

reactant | 2-Bromodibenzofuran | 10.1 mmol, 2.5 g | BrC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7BrO
reactant | orthoperiodic acid | 2.15 mmol, 0.49 g | I(=O)(O)(O)(O)(O)O | H5IO6
reactant | iodine | 4.02 mmol, 1.02 g | II | I2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 2 ml | O | H2O
product | 2-Bromo-8-iododibenzofuran | BrC1=CC2=C(OC3=C2C=C(C=C3)I)C=C1 | C12H6BrIO
